US09421205B2
(a) 5-Bromo-2-methylbenzamide (I69)
To a mixture of 5-bromo-2-methylbenzoic acid (0.538 g, 2.50 mmol) and HATU (1.289 g, 3.390 mmol) in DMF (8 mL) was added DIPEA (0.800 mL, 4.59 mmol). The mixture was stirred for 10 minutes before addition of NH4OH (0.50 mL) and then left stirring for 16 hours at room temperature. The mixture was poured in to water and cooled at 0° C. for 20 minutes before collecting the resulting precipitate via vacuum filtration to give the title compound (I69) (0.292 g, 55%); 1H NMR (400 MHz, CDCl3) δ 7.58 (d, J=2.1 Hz, 1H), 7.45 (dd, J=8.2, 2.1 Hz, 1H), 7.12 (d, J=8.2 Hz, 1H), 5.68 (bs, 2H), 2.44 (s, 3H). LCMS Method C: rt 4.89 min; m/z 214, 216 [M+H]+.

reactant | 5-bromo-2-methylbenzoic acid | 2.50 mmol, 0.538 g | BrC=1C=CC(=C(C(=O)O)C1)C | C8H7BrO2
reactant | HATU | 3.390 mmol, 1.289 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 4.59 mmol, 0.800 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | NH4OH | 0.50 mL | [NH4+].[OH-]
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 5-Bromo-2-methylbenzamide | BrC=1C=CC(=C(C(=O)N)C1)C | C8H8BrNO
